Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.20608168557
[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[O:7][H:8]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][H:8],-1.12759120217
[H:1][C:2]([H:3])=[C:4]1[C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([C:5]([C:6]([H:7])([H:8])[H:9])=[O:10])[C:11]([H:12])[H:13],-0.0234260355601
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-2.42256538967
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][H:9],3.61634821301
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.2171561654300005
[O:1]([C:2][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.09679148262
[C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[H:1][C:5]#[C:6][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.12804280454
[H:1][C:2](=[C:3][H:4])[O:9][C:8]=[C:5]([H:6])[H:7]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9]1,-2.9374419668400003
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-1.68179137
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.128395446619999
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-5.974227771669999
[C:1]#[C:2][O:3][H:4].[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.19898815488
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-2.22861324383
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],1.95191162688
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:11][H:12],-5.20827771253
[H:1][C:2]=[C:4]([H:5])[C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.98502919432
[H:7].[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-5.17952252047
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.96478138012
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16],4.93544379356
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.84142153626
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3],5.53459108408
[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.29065400068
[C:1]=[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3](=[O:4])[O:5])[C:7]([H:8])([H:9])[H:10].[H:6],5.02805869139
[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.11569109796
[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-2.3445538457
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],-5.68935432533
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-7.23781341205
[O:1][C:2]([C:3][O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3][O:4][H:5].[O:1]=[C:2]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.101962059999
[C:1]#[C:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.92601147911
